US09290476B2
Bis(2,4,6-Trichlorophenyl) 2-benzylmalonate
A mixture of 2-benzylmalonic acid (10.0 g, 51.5 mmol), 2,4,6-trichlorophenol (20.3 g, 103 mmol), and POCl3 (12.0 mL, 129 mmol) was stirred under air at 105° C. for 2 hours. The reaction was then cooled to room temperature, poured on 150 mL ice, and extracted with 4:1 ether/DCM (3×150 mL). The combined organic layers were washed with water (1×400 mL) and 4 M aqueous NaCl (1×100 mL), and the yellow organic layer was dried (Na2SO4), filtered, and concentrated by rotary evaporation at <40° C. to provide the title compound as a tan thick oil that became a beige solid upon standing.

reactant | 2-benzylmalonic acid | 51.5 mmol, 10.0 g | C(C1=CC=CC=C1)C(C(=O)O)C(=O)O | C10H10O4
reactant | 2,4,6-trichlorophenol | 103 mmol, 20.3 g | ClC1=C(C(=CC(=C1)Cl)Cl)O | C6H3Cl3O
reactant | POCl3 | 129 mmol, 12.0 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | Bis(2,4,6-Trichlorophenyl) 2-benzylmalonate | C(C1=CC=CC=C1)C(C(=O)OC1=C(C=C(C=C1Cl)Cl)Cl)C(=O)OC1=C(C=C(C=C1Cl)Cl)Cl | C22H12Cl6O4
